US07135469B2
1-(4-Methoxy-phenyl)-6-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)-butyl]-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-pentanenitrile (0.200 g, 0.510 mmol) was dissolved in 1:1 MeOH/CHCl3 (25 mL). Hydrogen chloride gas was bubbled through the solution for 15 min. The reaction was tightly capped and sealed, stirred overnight at rt, and then concentrated to dryness. The crude intermediate was dissolved in methanol (15 mL). N-Methylethylenediamine (0.04 mL, 0.510 mmol) and triethylamine (0.36 mL, 2.55 mmol) were added. The reaction was tightly capped and sealed and stirred overnight at rt. The reaction was concentrated and purified by reverse phase HPLC and freeze-dried to yield the title compound (0.184 g, 80%): 1H NMR (CHCl3) δ 7.43 (d, j=9.1 Hz, 2H), 6.95 (d, j=9.1 Hz, 2H), 3.95–3.83 (m, 2H), 3.85 (s, 3H), 3.71 (t, j=6.8 Hz, 2H), 3.58–3.50(m, 4H), 3.03 (t, j=7.9 Hz, 2H), 3.00(s, 2H), 2.68 (s, 4H), 1.73 (bs, 4H) ppm; Mass Spec 450.0(M+H)+.

reactant | 5-[1-(4-Methoxy-phenyl)-7-oxo-3-trifluoromethyl-1,4,5,7-tetrahydro-pyrazolo[3,4-c]pyridin-6-yl]-pentanenitrile | 0.510 mmol, 0.200 g | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CCCCC#N)=O)C(F)(F)F | C19H19F3N4O2
reactant | N-Methylethylenediamine | 0.510 mmol, 0.04 mL | CNCCN | C3H10N2
reactant | triethylamine | 2.55 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH CHCl3 | 25 mL | CO.C(Cl)(Cl)Cl
product | 1-(4-Methoxy-phenyl)-6-[4-(1-methyl-4,5-dihydro-1H-imidazol-2-yl)-butyl]-3-trifluoromethyl-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 0.184 g, 80% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)CCCCC=2N(CCN2)C)=O)C(F)(F)F | C22H26F3N5O2
